US06025350
5-Hydroxyl-5-(2-methoxyphenyl)-1-pentene
To a solution of 3-butenylmagnesium bromide in THF (0.50 M, 200 mL) at 0° C. was added o-anisaldehyde (13.62 g, 100 mmol) in THF (20 mL) dropwise and the reaction mixture was heated under reflux for 1 hour. Water was added, the aqueous layer was extracted with ether (x4), and the combined organic layers were washed with brine, dried over MgSO4 and evaporated in vacuo to give the title compound. The crude product was used for Preparation 17 without purification. 1H NMR (CDCl3, 400 MHz) δ: 7.3 (2H), 6.9 (2H), 5.8 (2H), 4.8-5.1 (3H), 3.85 (3H, OMe), 2.5 (1 H), 1.8-2.3 (4H).

reactant | 3-butenylmagnesium bromide | C(CC=C)[Mg]Br
reactant | o-anisaldehyde | 100 mmol, 13.62 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | Water | O | H2O
solvent | THF | 0.50 M, 200 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Hydroxyl-5-(2-methoxyphenyl)-1-pentene | OC(CCC=C)C1=C(C=CC=C1)OC | C12H16O2
